data/oMe_Silver.jsonl
{"reaction_id": "NR-129_1-c1ccc(OC)cc1_2-c1ccc(C)cc1","name": "Kumada-Corriu Coupling","level": "medium","reactants_smiles": ["c1ccc(OC)cc1Br","c1ccc(C)cc1[Mg]Br"],"products_smiles": ["c1ccc(OC)cc1c1ccc(C)cc1"],"conditions": "[Pd]","mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "[Pd](c1ccc(OC)cc1)Br","rationale": "Pd(0) undergoes oxidative addition into the C–Br bond due to the bond’s polarization and good leaving group ability of Br⁻, forming a Pd(II) complex stabilized by coordination to c1ccc(OC)cc1."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[Pd](c1ccc(OC)cc1)c1ccc(C)cc1","rationale": "The nucleophilic c1ccc(C)cc1–MgBr transfers c1ccc(C)cc1 to Pd via transmetalation, driven by the strong Mg–Br affinity and the increased electrophilicity of Pd(II) from electron-withdrawing Br."},{"step": 3,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1ccc(OC)cc1c1ccc(C)cc1","rationale": "Reductive elimination from Pd(II) is favored as it forms a stable C–C bond between c1ccc(OC)cc1 and c1ccc(C)cc1, regenerating Pd(0) and completing the catalytic cycle."}],"description": "In the Kumada-Corriu coupling, a Pd catalyst mediates the cross-coupling of an organohalide with a Grignard reagent. Oxidative addition activates the aryl halide, transmetalation introduces the nucleophilic partner, and reductive elimination forms the C–C bond, regenerating the catalyst."}
{"reaction_id": "NR-105_1-C(F)(F)F_2-c2cnccn2_3-[N+](=O)[O-]_4-F_5-Cc2ccccc2","level": "medium","name": "Hemetsberger-Knittel Indole Synthesis","reactants_smiles": ["[N-]=[N+]=N/C(=C/c1c(F)c([N+](=O)[O-])c(c2cnccn2)c(C(F)(F)F)c1)\\C(=O)OCc2ccccc2"],"products_smiles": ["c1c(C(=O)OCc2ccccc2)[nH]c2c1c(F)c([N+](=O)[O-])c(c2cnccn2)c2C(F)(F)F"],"conditions": "Heat","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[N]/C(=C/c1c(F)c([N+](=O)[O-])c(c2cnccn2)c(C(F)(F)F)c1)\\C(=O)OCc2ccccc2","step_weight": 0,"rationale": "Thermal conditions promote loss of N₂ from the azide due to its excellent leaving group ability, generating an electron-deficient nitrene stabilized by conjugation with the alkene."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "Cc2ccccc2OC(=O)C1C=C2C(=[n]1)c(c(c(c2F)[N+](=O)[O-])c2cnccn2)C(F)(F)F","step_weight": 0,"rationale": "The nitrene undergoes a 6π-electrocyclization driven by conjugation between the alkene and aromatic ring, forming the bicyclic indole skeleton under thermal control."},{"step": 3,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "c1c(C(=O)OCc2ccccc2)[nH]c2c1c(F)c([N+](=O)[O-])c(c2cnccn2)c2C(F)(F)F","step_weight": 0,"rationale": "A sigmatropic hydrogen shift restores aromaticity in the heterocycle, as aromatization provides strong thermodynamic driving force for the rearrangement."}],"description": "Upon heating, the azide undergoes nitrogen extrusion to form a reactive nitrene intermediate, which then cyclizes via electrocyclization to form the indole framework. A subsequent sigmatropic rearrangement aromatizes the ring, yielding the substituted indole product."}
